US07560551B2
Synthesis of 2-Chloro-4-(2-chloropyridin-3-yl)pyrimidine
To 2,4-dichloropyrimidine (2.00 g, 13.4 mmol), 2-choropyridine-3-boronic acid (3.16 g, 20.1 mmol) and Pd(PPh3)4 (1.55 g, 1.30 mmol), was added DME (30.0 ML) and 1 M NaHCO3 (13.0 mL). The resulting mixture was heated to 90° C. for 17 hours, then diluted with EtOAc and extracted with saturated sodium carbonate, water, and brine. The organics were dried over sodium sulfate, filtered and concentrated. The resulting solid was triturated with ether and dried to yield the desired product. MS m/z=226 [M+H]+. Calc'd for C9H5Cl2N4: 225.12.

reactant | 2,4-dichloropyrimidine | 13.4 mmol, 2.00 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 2-choropyridine-3-boronic acid | 20.1 mmol, 3.16 g | ClC1=NC=CC=C1B(O)O | C5H5BClNO2
reactant | DME | COCCOC | C4H10O2
reactant | NaHCO3 | 1 M, 13.0 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 1.30 mmol, 1.55 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-4-(2-chloropyridin-3-yl)pyrimidine | ClC1=NC=CC(=N1)C=1C(=NC=CC1)Cl | C9H5Cl2N3
